2173-04-04 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 EKG - At [**2173-4-3**] 11:55 AM
 NON-INVASIVE VENTILATION - START [**2173-4-3**] 12:30 PM
   - Admitted to MICU after triggering for somnolence / AMS
   - Placed on BiPAP and improved, alert & oriented
   - Repeat ABG on BiPAP pH 7.39,pCO2 66, pO2 83, HCO3 41
   - BiPAP discontinued briefly, appeared hypoxic / cyanotic, restarted
   - [**2173-4-3**]  GRAM POSITIVE COCCUS(COCCI); started Daptomycin IV given
   Vancomycin allergy
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfasalazine
   Unknown;
   Warfarin
   GI bleed;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Dyspnea
   Integumentary (skin): Rash
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2173-4-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 71 (50 - 73) bpm
   BP: 112/61(73) {83/44(0) - 132/95(101)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,041 mL
                  PO:
                                                                    930 mL
                  TF:
   IVF:
                                                                    111 mL
   Blood products:
   Total out:
                                                                    559 mL
                                                                    625 mL
   Urine:
                                                                    559 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    482 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Bipap mask , Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (451 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.39/66/82.[**Numeric Identifier 96**]/40/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, b/l erythema
   Skin:  Warm, Rash: diffusely UE b/l
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   227 K/uL
   16.2 g/dL
   90 mg/dL
   1.0 mg/dL
   40 mEq/L
   3.9 mEq/L
   24 mg/dL
   95 mEq/L
   139 mEq/L
   49.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2173-4-3**]  03:40 PM
                             [**2173-4-3**]  09:53 PM
                             [**2173-4-4**]  03:56 AM
   WBC
   6.7
   Hct
   49.1
   Plt
   227
   Cr
   1.1
   1.0
   TCO2
   41
   Glucose
   145
   90
   Other labs: ALT / AST:14/24, Alk Phos / T Bili:155/2.7, Lactic Acid:1.0
   mmol/L, LDH:292 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 PULMONARY EDEMA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57 yo M with afib, right sided CHF presenting with dyspnea, increased
   LE swelling c/b BLE venous stasis breakdown s/p diuresis on the floor,
   now transferred to the ICU for AMS.
   .
   # AMS - Likely secondary to hypercarbia / hypoxia due to obesity
   hypoventilation and sleep apnea.  Could be occult infection but no
   clear source and intial BP upon transfer was with patient not lying
   flat, now improved.  Also after significant diuresis.  LE with
   significant erythema, but review of records reveals this has been a
   stable issue for months to years, no leukocytosis, no fever.  Could
   also be pulmonary source (trialing and not tolerating CPAP), urinary or
   intra-abdominal.  Could be med effect but no new sedating meds in last
   several days.  Urine tox / serum tox negative.
   - GPC in blood, started Daptomycin given Vancomycin allergy
   - Trial BiPAP
   - ABG if worsens
   - Goal O2 88-92%
   - Avoid sedating medications
   - Panculture: urine, blood & obtain CXR
   - Monitor BP, hemodynamics; no e/o sepsis at this time
   - Nonfocal, holding CT Head at this time
   - No clear e/o infection, will not LP unless fails to clear
   .
   # Hypoxia - Likely multifactorial including some pulmonary edema (as
   evidenced on CXR), pulmonary hypertension.  No e/o PNA as is afebrile
   and without leukocytosis.  CXR concerning for LLL process though poor
   study given body habitus. Some component of volume overload. Has
   effusions and vascular congestion. no e/o PE on CTA.
   - Trial BiPAP; will need O2 via NC when not on BiPAP, goal O2 88-92%
   - Diurese as above, but holding for ?hypotension
   - Hold antibiotics for PNA unless further e/o infection
   - Pulmonary recs from floor, should resume following after leaving ICU
   .
   # Hypercarbia - With pH consistent with chronic process.  Maybe some
   component of slight acute worsening, but mostly chronic.  Likely [**2-8**]
   OSA, obesity; minimal evidence of COPD on PFTs.
   - BiPAP given with repeat ABG revealing minimal change in CO2
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 8565**], BiPAP as needed
   .
   # Right heart failure - Secondary to cor pulmonae from COPD/OSA. No
   significant evidence of alcoholic cardiomyopathy. Echo showed normal
   EF, not major LV dysfunction and showed significant pHTN and TR. No
   improvement with nitric oxide, thus not starting sildenafil or CCB.
   Patient s/p right and left heart cath. No evidence of ASD. L heart cath
   negative for CAD. For aggressive diuresis, switched from Lasix 120mg IV
   BID to lasix 10mg/hr ggt also given Diamox to compensatate for
   metabolic alkalosis.
   - Upon transfer, will hold Lasix, Spironolactone & Diamoxx given
   concern for hypotension
   - PM lytes
   - Daily weights & fluid restriction
   - Low salt diet once more alert and able to safely take PO
   .
   # Obstructive Sleep Apnea:  Patient was seen by pulmonary and
   vasculitis labs sent. During R heart cath, severe pHTN and no
   improvement with nitric oxide. Sleep study not tolerated because
   patient could not tolerate CPAP mask. PFTs are reflective of
   restrictive physiology from obesity. Sleep study data was analyzed and
   patient was given Adapt SV machine instead of CPAP since AHI 63 and
   desat to 58%. Settings of PEEP 10 max pressure support 15 + 2L O2,
   patient will take this machine home with him. All vasculitis labs
   negative. Nebs not needed since not bronchospastic picture and
   restrictive not obsructive physiology.
   - Holding diuresis
   - Pt should lie with head elevation due large abdomen
   - BiPAP trial now and QHS
   .
   # Atrial Fibrillation: Currently not anticoagluated [**2-8**] massive GIB
   while on coumadin and Ciprofloxacin.  Rate controlled with metoprolol.
   No ASA due to h/o GIB.  In OMR, warfarin was briefly restarted but upon
   transfer is not on medication list.
   - clarify current anticoagulation with primary team
   - hold Metoprolol given bradycardia upon transfer, likely needs lower
   dose and other [**Doctor Last Name **] for BP control should it be needed
   .
   # Anasarca:  Partially resolving, intially, grossly volume overloaded
   on exam, with ascites, BLE edema, and soft tissue edema in back and on
   abdomen. Also with bilateral crackles and likely effusions.  Initial
   etiologies considered included right heart failure, possibly secondary
   to left heart failure vs pulmonary HTN, OSA, or RV infarct. Not from
   liver synthetic dysfunction since albumin normal and not nephrotic
   syndrome since negative urinary protein.
   - Diursing since admission, hold for hypotension, but will restart as
   able
   .
   # Prurigo nodularis: Seen by Dermatology consult inpatient.
   - Per their recommendations, will continue atarax QHS, clobetasol 0.05%
   ointment [**Hospital1 **], capsaicin cream TID x 4 weeks, d/c neosporin, mupirocin
   Cream 2% 1 Appl TP [**Hospital1 **] to open lesions / excoriations
   - f/u [**Hospital 8553**] clinic in 3 months
   .
   # Cardiac liver disease: Per intial team evaluation, patient has
   distended abdomen, minimal ascities, slightly elevated INR at 1.6,
   platlets normal, normal albumin so hepatic function is intact and there
   is not significant splenic platlet sequesteration. Etiology could be R
   CHF or EtOH. Hepatitis serologies negative from [**2162**]. No significant
   abnormalities seen on abdominal ultrasound.
   .
   # Elevated HCT:  Likely secondary to chronic hypoxia in the setting of
   OSA.
   - Trend
   .
   # Venous insuffiency:  B/l LE with significant erythema, followed by
   Dr. [**Last Name (STitle) **] as outpatient.  Per review, had right leg non-healing
   ulcer in [**2171**] and LENI in [**2170**] which showed good flow. Upon admission,
   patient already had home VNA for bandage wraps and is in a PT exercise
   program.  Also status post Apligraf placement on his right leg on [**1-14**].
   Arterial flow studies, good flow until tibia.
   - Wound consult & Vascular following on floor; will continue their
   recommendations upon transfer
   - Some wounds with exudate, will use Mupirocin per Dermatology
   - Hold antibiotics given afebrile, no leukocytosis
   .
   # Patient Coping: Initial team concerned that patient may have some
   elemaent of undiagnosed depression, had obtained a SW consult.
   - Follow-up social work recs; plan for outpatient therapy
   - Continue newly started Citalopram
   .
   # FEN: 1.5L fluid restriction / replete PRN / NPO while AMS
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: SC heparin, bowel regimen, PPI
   .
   # CODE: Full Code
   .
   # DISPO: Pending improvement in AMS, will plan for transfer back to
   floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-4-3**] 11:50 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2173-04-05 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2173-4-4**] 11:48 AM
   - A-line
   - [**Year (4 digits) 8565**]: 7.34/67/84 on BiPAP 18/5 and MS dramatically improved, awake,
   interactive
   - Goal sats 88-92%
   - f/u blood cx, GPCs in pairs and clusters, on Dapto (Vanco allergy -->
   burning at IV site, Red Man's)
   - plan for autoset BiPAP at night --> tried but became hypoxic so
   switched back to BiPAP on vent
   Allergies:
   Sulfasalazine
   Unknown;
   Warfarin
   GI bleed;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2173-4-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-5**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 75 (64 - 93) bpm
   BP: 102/56(65) {88/53(60) - 119/81(97)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,520 mL
                                                                    300 mL
   PO:
                                                                  1,470 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    445 mL
   Urine:
                                                                  1,540 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -20 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 698 (344 - 698) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.31/69/214/37/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 476
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, + skin lesions, weeping
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   211 K/uL
   16.0 g/dL
   110 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.6 mEq/L
   22 mg/dL
   93 mEq/L
   135 mEq/L
   48.9 %
   6.6 K/uL
         [image002.jpg]
                             [**2173-4-3**]  09:53 PM
                             [**2173-4-4**]  03:56 AM
                             [**2173-4-4**]  11:25 AM
                             [**2173-4-4**]  01:10 PM
                             [**2173-4-4**]  03:03 PM
                             [**2173-4-4**]  05:14 PM
                             [**2173-4-4**]  11:13 PM
                             [**2173-4-5**]  03:39 AM
                             [**2173-4-5**]  03:50 AM
                             [**2173-4-5**]  05:20 AM
   WBC
   6.7
   6.6
   Hct
   49.1
   48.9
   Plt
   227
   211
   Cr
   1.0
   0.9
   TCO2
   41
   39
   38
   36
   34
   36
   36
   36
   Glucose
   90
   143
   110
   Other labs: ALT / AST:14/24, Alk Phos / T Bili:155/2.7,
   Differential-Neuts:73.3 %, Lymph:11.9 %, Mono:9.6 %, Eos:4.7 %, Lactic
   Acid:1.0 mmol/L, LDH:292 IU/L, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.1
   mg/dL
   Imaging: [**4-3**] CXR: Cardiac silhouette is enlarged, and pulmonary
   vascularity appears engorged and
   indistinct with associated perihilar haziness attributed to edema.
   Small
   pleural effusions are present, left greater than right.
   [**4-5**] CXR:
   Microbiology: [**4-3**] Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   [**4-4**] Blood cx: P
   [**4-5**] Blood cx: P
   Assessment and Plan
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 PULMONARY EDEMA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57 yo M with afib, right sided CHF presenting with dyspnea, increased
   LE swelling c/b BLE venous stasis breakdown s/p diuresis on the floor,
   now transferred to the ICU for AMS.
   .
   # AMS - Likely secondary to hypercarbia / hypoxia due to obesity
   hypoventilation and sleep apnea.  Could be occult infection but no
   clear source and intial BP upon transfer was with patient not lying
   flat, now improved.  Also after significant diuresis.  LE with
   significant erythema, but review of records reveals this has been a
   stable issue for months to years, no leukocytosis, no fever.  Could
   also be pulmonary source (trialing and not tolerating CPAP), urinary or
   intra-abdominal.  Could be med effect but no new sedating meds in last
   several days.  Urine tox / serum tox negative.
   - GPC in blood, started Daptomycin given Vancomycin allergy
   - Seemed to imporve on BiPAP, pt was alert and interactive yesterday
   afternoon
   - follow [**Doctor Last Name 8565**] with mental status
   - Goal O2 88-92%
   - Avoid sedating medications
   - Panculture: urine, blood, surveillance blood cx
   - Monitor BP, hemodynamics; no e/o sepsis at this time
   - sleep consult
   .
   # Hypoxia - Likely multifactorial including some pulmonary edema (as
   evidenced on CXR), pulmonary hypertension.  No e/o PNA as is afebrile
   and without leukocytosis.  CXR concerning for LLL process though poor
   study given body habitus. Some component of volume overload. Has
   effusions and vascular congestion. no e/o PE on CTA.
   - BiPAP; will need O2 via NC when not on BiPAP, goal O2 88-92%
   - Diurese
   - Hold antibiotics for PNA unless further e/o infection
   - Pulmonary recs from floor, should resume following after leaving ICU
   .
   # Hypercarbia - With pH consistent with chronic process.  Maybe some
   component of slight acute worsening, but mostly chronic.  Likely [**2-8**]
   OSA, obesity; minimal evidence of COPD on PFTs.
   - BiPAP given with repeat ABG revealing minimal change in CO2
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 8565**], BiPAP as needed
   .
   # Right heart failure - Secondary to cor pulmonae from COPD/OSA. No
   significant evidence of alcoholic cardiomyopathy. Echo showed normal
   EF, not major LV dysfunction and showed significant pHTN and TR. No
   improvement with nitric oxide, thus not starting sildenafil or CCB.
   Patient s/p right and left heart cath. No evidence of ASD. L heart cath
   negative for CAD. For aggressive diuresis, switched from Lasix 120mg IV
   BID to lasix 10mg/hr ggt also given Diamox to compensatate for
   metabolic alkalosis.
   - Upon transfer, held  Lasix, Spironolactone & Diamoxx given concern
   for hypotension, consider restarting again today slowly
   - PM lytes
   - Daily weights & fluid restriction
   - Low salt diet once more alert and able to safely take PO
   - restart lasix today
   .
   # Obstructive Sleep Apnea:  Patient was seen by pulmonary and
   vasculitis labs sent. During R heart cath, severe pHTN and no
   improvement with nitric oxide. Sleep study not tolerated because
   patient could not tolerate CPAP mask. PFTs are reflective of
   restrictive physiology from obesity. Sleep study data was analyzed and
   patient was given Adapt SV machine instead of CPAP since AHI 63 and
   desat to 58%. Settings of PEEP 10 max pressure support 15 + 2L O2,
   patient will take this machine home with him. All vasculitis labs
   negative. Nebs not needed since not bronchospastic picture and
   restrictive not obsructive physiology.
   - Holding diuresis
   - Pt should lie with head elevation due large abdomen
   - BiPAP trial now and QHS
   - sleep consult
   .
   # Atrial Fibrillation: Currently not anticoagluated [**2-8**] massive GIB
   while on coumadin and Ciprofloxacin.  Rate controlled with metoprolol.
   No ASA due to h/o GIB.  In OMR, warfarin was briefly restarted but upon
   transfer is not on medication list.
   - clarify current anticoagulation with primary team: NO plans for
   anticoagulation
   - hold Metoprolol given bradycardia upon transfer, likely needs lower
   dose and other [**Doctor Last Name **] for BP control should it be needed
   .
   # Anasarca:  Partially resolving, intially, grossly volume overloaded
   on exam, with ascites, BLE edema, and soft tissue edema in back and on
   abdomen. Also with bilateral crackles and likely effusions.  Initial
   etiologies considered included right heart failure, possibly secondary
   to left heart failure vs pulmonary HTN, OSA, or RV infarct. Not from
   liver synthetic dysfunction since albumin normal and not nephrotic
   syndrome since negative urinary protein.
   - Diursing since admission, hold for hypotension, but will restart as
   able, will restart today
   .
   # Prurigo nodularis: Seen by Dermatology consult inpatient.
   - Per their recommendations, will continue atarax QHS, clobetasol 0.05%
   ointment [**Hospital1 **], capsaicin cream TID x 4 weeks, d/c neosporin, mupirocin
   Cream 2% 1 Appl TP [**Hospital1 **] to open lesions / excoriations
   - f/u [**Hospital 8553**] clinic in 3 months
   .
   # Cardiac liver disease: Per intial team evaluation, patient has
   distended abdomen, minimal ascities, slightly elevated INR at 1.6,
   platlets normal, normal albumin so hepatic function is intact and there
   is not significant splenic platlet sequesteration. Etiology could be R
   CHF or EtOH. Hepatitis serologies negative from [**2162**]. No significant
   abnormalities seen on abdominal ultrasound.
   .
   # Elevated HCT:  Likely secondary to chronic hypoxia in the setting of
   OSA.
   - Trend
   .
   # Venous insuffiency:  B/l LE with significant erythema, followed by
   Dr. [**Last Name (STitle) **] as outpatient.  Per review, had right leg non-healing
   ulcer in [**2171**] and LENI in [**2170**] which showed good flow. Upon admission,
   patient already had home VNA for bandage wraps and is in a PT exercise
   program.  Also status post Apligraf placement on his right leg on [**1-14**].
   Arterial flow studies, good flow until tibia.
   - Wound consult & Vascular following on floor; will continue their
   recommendations upon transfer
   - Some wounds with exudate, will use Mupirocin per Dermatology
   - [**Month (only) 60**] be source of GPCs in blood cx, on Dapto, awaiting speciation
   .
   # Patient Coping: Initial team concerned that patient may have some
   element of undiagnosed depression, had obtained a SW consult.
   - Follow-up social work recs; plan for outpatient therapy
   - Continue newly started Citalopram
   .
   # FEN: 1.5L fluid restriction / replete PRN / Clears, ADAT
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: SC heparin, bowel regimen, PPI
   .
   # CODE: Full Code
   .
   # DISPO: Pending improvement in AMS, will plan for transfer back to
   floor
   ICU Care
   Nutrition: Clears, ADAT
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2173-4-3**] 11:50 AM
   Arterial Line - [**2173-4-4**] 11:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU, possible transfer to floor with autoset BiPAP

2173-04-06 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2173-4-5**] 10:00 AM
 NON-INVASIVE VENTILATION - STOP [**2173-4-5**] 12:00 PM
 NON-INVASIVE VENTILATION - START [**2173-4-5**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2173-4-5**] 06:00 PM
 BLOOD CULTURED - At [**2173-4-6**] 03:59 AM
   - restarted lasix [**Hospital1 **]
   - vascular c/s did not feel wounds infected
   - briefly put on naf but didn't miss dose of dapto as we await
   speciation
   Allergies:
   Sulfasalazine
   Unknown;
   Warfarin
   GI bleed;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2173-4-5**] 10:00 AM
   Nafcillin - [**2173-4-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Orthopnea
   Flowsheet Data as of  [**2173-4-6**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 101 (77 - 101) bpm
   BP: 102/56(65) {0/0(0) - 0/0(0)} mmHg
   RR: 23 (19 - 28) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,590 mL
                                                                    150 mL
   PO:
                                                                  1,440 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    785 mL
   Urine:
                                                                  2,055 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                   -635 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.39/58/71/36/7
   PaO2 / FiO2: 158
   Physical Examination
   Gen: awake and alert, talking full sentences
   HEENT: EOMI, MMM, OP clear
   Heart: irregular, no m/r/g
   Lungs: decreased BS diffusely with scattered crackles
   Abd: obese, soft NT +BS
   Ext: dressed, warm, with mild cyanosis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   15.7 g/dL
   112 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.8 mEq/L
   21 mg/dL
   96 mEq/L
   137 mEq/L
   47.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2173-4-5**]  03:39 AM
                             [**2173-4-5**]  03:50 AM
                             [**2173-4-5**]  05:20 AM
                             [**2173-4-5**]  10:51 AM
                             [**2173-4-5**]  04:10 PM
                             [**2173-4-5**]  05:48 PM
                             [**2173-4-5**]  10:19 PM
                             [**2173-4-6**]  03:43 AM
                             [**2173-4-6**]  03:58 AM
                             [**2173-4-6**]  05:51 AM
   WBC
   6.6
   6.3
   Hct
   48.9
   47.6
   Plt
   211
   240
   Cr
   0.9
   1.0
   TCO2
   36
   36
   33
   33
   33
   33
   37
   36
   Glucose
   110
   112
   Other labs: PT / PTT / INR:16.6/37.6/1.5, ALT / AST:14/24, Alk Phos / T
   Bili:155/2.7, Differential-Neuts:73.3 %, Lymph:11.9 %, Mono:9.6 %,
   Eos:4.7 %, Lactic Acid:1.0 mmol/L, LDH:292 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Microbiology: STAPH AUREUS COAG +.    PRELIMINARY SENSITIVITY.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   GENTAMICIN------------       S
   LEVOFLOXACIN----------       S
   RIFAMPIN--------------       S
   VANCOMYCIN------------       S
   [**4-4**] blood cx- gram + cocci
   Assessment and Plan
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 PULMONARY EDEMA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57 yo M with afib, right sided CHF presenting with dyspnea, increased
   LE swelling c/b BLE venous stasis breakdown s/p diuresis on the floor,
   now transferred to the ICU for AMS, now with GPC bacteremia.
   .
   # AMS - Likely secondary to hypercarbia / hypoxia due to obesity
   hypoventilation and sleep apnea.  Does have GPC bacteremia but has been
   afebrile.  Also had significant diuresis.  LE with significant
   erythema, but review of records reveals this has been a stable issue
   for months to years, no leukocytosis, no fever.  Could also be
   pulmonary source (trialing and not tolerating CPAP), urinary or
   intra-abdominal.  Could be med effect but no new sedating meds in last
   several days.  Urine tox / serum tox negative.
   - mental status at baseline, gradually tolerating BIPAP
   - GPC in blood, started Daptomycin given Vancomycin allergy, f/u
   speciation and sensitivity
   - follow [**Doctor Last Name 8565**] with mental status prn
   - Goal O2 88-92%
   - Avoid sedating medications
   - Monitor BP, hemodynamics; no e/o sepsis at this time
   - f/u sleep recs
   .
   # GPC bacteremia- unclear source, sources include lower ext ulcers, IE
   - continue daptomycin until sensitivity returns
   - TTE today
   - xrays of R foot to asses for infection
   .
   # Hypoxia - Likely multifactorial including some pulmonary edema (as
   evidenced on CXR), pulmonary hypertension.  No e/o PNA as is afebrile
   and without leukocytosis.  CXR concerning for LLL process though poor
   study given body habitus. Some component of volume overload. Has
   effusions and vascular congestion. no e/o PE on CTA.
   - BiPAP; will need O2 via NC when not on BiPAP, goal O2 88-92%
   - Diurese with oral lasix
   - Pulmonary recs from floor, should resume following if leaves ICU
   .
   # Hypercarbia - With pH consistent with chronic process.  Maybe some
   component of slight acute worsening, but mostly chronic.  Likely [**2-8**]
   OSA, obesity; minimal evidence of COPD on PFTs.
   - BiPAP given with repeat ABG revealing minimal change in CO2
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 8565**], BiPAP as needed
   .
   # Right heart failure - Secondary to cor pulmonae from COPD/OSA. No
   significant evidence of alcoholic cardiomyopathy. Echo showed normal
   EF, not major LV dysfunction and showed significant pHTN and TR. No
   improvement with nitric oxide, thus not starting sildenafil or CCB.
   Patient s/p right and left heart cath. No evidence of ASD. L heart cath
   negative for CAD. For aggressive diuresis, switched from Lasix 120mg IV
   BID to lasix 10mg/hr ggt also given Diamox to compensatate for
   metabolic alkalosis.
   - lasix 120mg PO BID, 500cc negative, 600cc negative since MN, continue
   current doses
   - PM lytes
   - Daily weights & fluid restriction
   - Low salt diet once more alert and able to safely take PO
   - Restart BB
   .
   # Obstructive Sleep Apnea:  Patient was seen by pulmonary and
   vasculitis labs sent. During R heart cath, severe pHTN and no
   improvement with nitric oxide. Sleep study not tolerated because
   patient could not tolerate CPAP mask. PFTs are reflective of
   restrictive physiology from obesity. Sleep study data was analyzed and
   patient was given Adapt SV machine instead of CPAP since AHI 63 and
   desat to 58%. Settings of PEEP 10 max pressure support 15 + 2L O2,
   patient will take this machine home with him. All vasculitis labs
   negative. Nebs not needed since not bronchospastic picture and
   restrictive not obsructive physiology.
   - Pt should lie with head elevation due large abdomen
   - BiPAP trial now and QHS
   - sleep consult
   - consider ambien
   .
   # Atrial Fibrillation: Currently not anticoagluated [**2-8**] massive GIB
   while on coumadin and Ciprofloxacin.  Rate controlled with metoprolol.
   No ASA due to h/o GIB.  In OMR, warfarin was briefly restarted but upon
   transfer is not on medication list.
   - clarify current anticoagulation with primary team: NO plans for
   anticoagulation
   - will restart BB
   .
   # Anasarca:  Partially resolving, intially, grossly volume overloaded
   on exam, with ascites, BLE edema, and soft tissue edema in back and on
   abdomen. Also with bilateral crackles and likely effusions.  Initial
   etiologies considered included right heart failure, possibly secondary
   to left heart failure vs pulmonary HTN, OSA, or RV infarct. Not from
   liver synthetic dysfunction since albumin normal and not nephrotic
   syndrome since negative urinary protein.
   - Diuresis as above
   .
   # Prurigo nodularis: Seen by Dermatology consult inpatient.
   - Per their recommendations, will continue atarax QHS, clobetasol 0.05%
   ointment [**Hospital1 **], capsaicin cream TID x 4 weeks, d/c neosporin, mupirocin
   Cream 2% 1 Appl TP [**Hospital1 **] to open lesions / excoriations
   - f/u [**Hospital 8553**] clinic in 3 months
   .
   # Cardiac liver disease: Per intial team evaluation, patient has
   distended abdomen, minimal ascities, slightly elevated INR at 1.6,
   platlets normal, normal albumin so hepatic function is intact and there
   is not significant splenic platlet sequesteration. Etiology could be R
   CHF or EtOH. Hepatitis serologies negative from [**2162**]. No significant
   abnormalities seen on abdominal ultrasound.
   .
   # Elevated HCT:  Likely secondary to chronic hypoxia in the setting of
   OSA.
   - Trend
   .
   # Venous insuffiency:  B/l LE with significant erythema, followed by
   Dr. [**Last Name (STitle) **] as outpatient.  Per review, had right leg non-healing
   ulcer in [**2171**] and LENI in [**2170**] which showed good flow. Upon admission,
   patient already had home VNA for bandage wraps and is in a PT exercise
   program.  Also status post Apligraf placement on his right leg on [**1-14**].
   Arterial flow studies, good flow until tibia.
   - Wound consult & Vascular following on floor; will continue their
   recommendations upon transfer
   - Some wounds with exudate, will use Mupirocin per Dermatology
   - [**Month (only) 60**] be source of GPCs in blood cx, on Dapto, awaiting speciation
   .
   # Patient Coping: Initial team concerned that patient may have some
   element of undiagnosed depression, had obtained a SW consult.
   - Follow-up social work recs; plan for outpatient therapy
   - Continue newly started Citalopram
   .
   # FEN: 1.5L fluid restriction / replete PRN / Clears, ADAT
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: SC heparin, bowel regimen, PPI
   .
   # CODE: Full Code
   .
   # DISPO: Pending improvement in AMS, will plan for transfer back to
   floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-4-3**] 11:50 AM
   Arterial Line - [**2173-4-4**] 11:48 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-04-07 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2173-4-6**] 08:24 AM
   [**4-6**]
   foot xray - osteo, fluid collection, vasc [**Doctor First Name 458**] no further recs
   company rep came by to titrate EEP, was on 5 and not 10 all along,
   increased to 7 after d/w sleep fellow
   re started metoprolol
   TTE- no vegetations, pulm press unchanged
   switched to nafcillin given mssa bacteremia
   diuresing at goal
   emailed PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 8586**]
   Allergies:
   Sulfasalazine
   Unknown;
   Warfarin
   GI bleed;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2173-4-6**] 10:00 AM
   Nafcillin - [**2173-4-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-4-7**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 89 (72 - 109) bpm
   BP: 109/60(70) {109/60(70) - 109/60(70)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,575 mL
                                                                    300 mL
   PO:
                                                                  1,425 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    150 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                  1,690 mL
   Urine:
                                                                  2,795 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                 -1,390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: 7.38/59/122/37/8
   Physical Examination
   Gen: lying in bed, awake and alert
   HEENT: EOMI, anicteric sclera MMM
   Heart: irregular, no m/r/g
   Lungs: ppor exam, scattered breath sounds and decreased BS at base
   Abd: obese, soft NT/ND +BS
   Ext: erythematous with edema, multiple excoriations and open wounds
   with varying degrees of oozing
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   15.6 g/dL
   93 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   18 mg/dL
   97 mEq/L
   139 mEq/L
   48.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2173-4-5**]  10:51 AM
                             [**2173-4-5**]  04:10 PM
                             [**2173-4-5**]  05:48 PM
                             [**2173-4-5**]  10:19 PM
                             [**2173-4-6**]  03:43 AM
                             [**2173-4-6**]  03:58 AM
                             [**2173-4-6**]  05:51 AM
                             [**2173-4-6**]  03:14 PM
                             [**2173-4-7**]  05:33 AM
                             [**2173-4-7**]  05:47 AM
   WBC
   6.3
   6.0
   Hct
   47.6
   48.2
   Plt
   240
   239
   Cr
   1.0
   0.9
   0.9
   TCO2
   33
   33
   33
   33
   37
   36
   36
   Glucose
   112
   130
   93
   Other labs: PT / PTT / INR:15.9/33.4/1.4, ALT / AST:14/24, Alk Phos / T
   Bili:155/2.7, Differential-Neuts:73.3 %, Lymph:11.9 %, Mono:9.6 %,
   Eos:4.7 %, Lactic Acid:1.0 mmol/L, LDH:292 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 PULMONARY EDEMA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57 yo M with afib, admitted with CHF exacerbation [**2-8**] cor [**Hospital 8581**]
   transferred to ICU for AMS likely multifactorial [**2-8**] pulmonary edema,
   OSA and GPC bacteremia [**2-8**] chronic RLE ulcer.
   .
   # MSSA Bacteremia/RLE ULCER- most likely source at this time is RLE
   ulcer, vascular was consulted, appreciate their recommendations they do
   not think there is active infection.  Coag + staph on [**4-3**], subsequent
   cx with coag neg staph.  Blood cx NGTD since.
   - Switch antbx to nafcillin, 2 wk course from neg cultures through [**4-17**]
   - TTE with no obvious vegetations though suboptimal quality
   - xrays of R foot to asses for infection showed no obvious infection,
   some degenerative changes
   -surveillance blood cultures NGTD
   - Will need PICC for 2wk course
   .
   # Obstructive Sleep Apnea:  Patient was seen by pulmonary and
   vasculitis labs sent. During R heart cath, severe pHTN and no
   improvement with nitric oxide. Sleep study not tolerated because
   patient could not tolerate CPAP [**Month/Year (2) **]. PFTs are reflective of
   restrictive physiology from obesity.  He is currently on ASV machine by
   home care but still not tolerating with persistent hypoxia.  Awaiting
   home care to titrate settings.   Setting adjusted yesterday with good
   effect
   - f/u with sleep fellow
   - Pt should lie with head elevation due large abdomen\
   - consider ambien to see if it will help him sleep and allow him to
   better titrate [**Last Name (LF) **], [**First Name3 (LF) 178**] discuss with sleep fellow first
   .
   # Hypoxia - Likely multifactorial including some pulmonary edema (as
   evidenced on CXR), pulmonary hypertension and cor pulmonale.  no e/o PE
   on CTA from admission.
   - BiPAP; will need O2 via NC when not on BiPAP, goal O2 88-92%
   - Diurese with oral lasix with goal of 500ml -1000 L daily and monitor
   lytes
   - touch base with sleep fellow re: home care to titrate BIPAP
   -discuss with sleep fellow if ok to use ambien
   .
   # Hypercarbia - With pH consistent with chronic process.  Maybe some
   component of slight acute worsening, but mostly chronic.  Likely [**2-8**]
   OSA, obesity; minimal evidence of COPD on PFTs.
   - BiPAP given with repeat ABG revealing minimal change in CO2
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 8565**]
   -continue to titrate BIPAP
   .
   # Right heart failure - Secondary to cor pulmonae from COPD/OSA. No
   significant evidence of alcoholic cardiomyopathy. Echo showed normal
   EF, not major LV dysfunction and showed significant pHTN and TR. No
   improvement with nitric oxide, thus not starting sildenafil or CCB.
   Patient s/p right and left heart cath. No evidence of ASD. L heart cath
   negative for CAD.
   -continue po lasix for now, titrate to goal of [**Telephone/Fax (1) 1335**] l negative.
   >1000ml neg yesterday
   - [**Hospital1 **]  lytes
   - Daily weights & fluid restriction
   - Low salt diet once more alert and able to safely take PO
   - Restart BB at low dose
   .
   # Atrial Fibrillation: Currently not anticoagluated [**2-8**] massive GIB
   while on coumadin and Ciprofloxacin.  Rate controlled with metoprolol.
   No ASA due to h/o GIB.
   - NO plans for anticoagulation
   - restarted BB at low dose -> increase to 25mg [**Hospital1 **]
   .
   # Prurigo nodularis: appreciate Dermatology consult inpatient.
   - continue atarax QHS, clobetasol 0.05% ointment [**Hospital1 **], capsaicin cream
   TID x 4 weeks, d/c neosporin, mupirocin Cream 2% 1 Appl TP [**Hospital1 **] to open
   lesions / excoriations
   - f/u [**Hospital 8553**] clinic in 3 months
   .
   # Venous insuffiency/RLE Ulcer:  status post Apligraf placement on his
   right leg on [**1-14**]. Arterial flow studies, good flow until tibia.
   Chronic issue for patient
   - appreciate vascular reccs
   -right foot xray with no evidence of acute processes
   - Some wounds with exudate, will use Mupirocin per Dermatology
   .
   # Depression
 started on citalopram, tolerating well
   # Access: PIV -> will place PICC for antibiotics
   .
   # FEN: 1.5L fluid restriction /[**Hospital1 **] lytes while diuresing, low sodium
   cardiac diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-4-3**] 11:50 AM
   Arterial Line - [**2173-4-4**] 11:48 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI [**Hospital1 **]
   Communication: patient
   Code status: Full code
   Disposition: rehab screening

2173-04-08 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2173-4-7**] 06:50 PM
 ARTERIAL LINE - STOP [**2173-4-8**] 06:20 AM
   PICC line placed to complete 2 weeks of nafcillin for MSSA bacteremia
   metoprolol increased to 25mg [**Hospital1 **]
   Screened for rehab
   Worse ESV for most of the night, took off three times but only for
   brief period
   Aline fell out this am
   -2.5 L overnight on current dose of lasix
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfasalazine
   Unknown;
   Warfarin
   GI bleed;
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2173-4-6**] 10:00 AM
   Nafcillin - [**2173-4-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-4-7**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2173-4-7**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2173-4-8**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.8
   HR: 89 (71 - 116) bpm
   BP: 109/60(70) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,860 mL
                                                                    780 mL
   PO:
                                                                  1,260 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                  1,710 mL
   Urine:
                                                                  4,425 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,565 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/62/77.[**Numeric Identifier 96**]/36/8
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: dressings in place
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   247 K/uL
   16.0 g/dL
   107 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.8 mEq/L
   18 mg/dL
   96 mEq/L
   140 mEq/L
   48.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2173-4-5**]  10:19 PM
                             [**2173-4-6**]  03:43 AM
                             [**2173-4-6**]  03:58 AM
                             [**2173-4-6**]  05:51 AM
                             [**2173-4-6**]  03:14 PM
                             [**2173-4-7**]  05:33 AM
                             [**2173-4-7**]  05:47 AM
                             [**2173-4-7**]  05:35 PM
                             [**2173-4-8**]  04:12 AM
                             [**2173-4-8**]  04:40 AM
   WBC
   6.3
   6.0
   6.6
   Hct
   47.6
   48.2
   48.6
   Plt
   [**Telephone/Fax (3) 8587**]
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   TCO2
   33
   37
   36
   36
   38
   Glucose
   112
   130
   93
   154
   107
   Other labs: PT / PTT / INR:16.1/34.9/1.4, ALT / AST:14/24, Alk Phos / T
   Bili:155/2.7, Differential-Neuts:73.3 %, Lymph:11.9 %, Mono:9.6 %,
   Eos:4.7 %, Lactic Acid:1.0 mmol/L, LDH:292 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 PULMONARY EDEMA
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   57 yo M with afib, admitted with CHF exacerbation [**2-8**] cor [**Hospital 8581**]
   transferred to ICU for AMS likely multifactorial [**2-8**] pulmonary edema,
   OSA and GPC bacteremia [**2-8**] chronic RLE ulcer.
   .
   # MSSA Bacteremia/RLE ULCER- most likely source at this time is RLE
   ulcer, vascular was consulted, appreciate their recommendations they do
   not think there is active infection.  Coag + staph on [**4-3**], subsequent
   cx with coag neg staph.  Blood cx NGTD since.
   - Switch antbx to nafcillin, 2 wk course from neg cultures through [**4-17**]
   - TTE with no obvious vegetations though suboptimal quality
   - xrays of R foot to asses for infection showed no obvious infection,
   some degenerative changes
   -surveillance blood cultures NGTD
   - PICC placed [**2173-4-7**]
   .
   # Obstructive Sleep Apnea:  Patient was seen by pulmonary and
   vasculitis labs sent. During R heart cath, severe pHTN and no
   improvement with nitric oxide. Sleep study not tolerated because
   patient could not tolerate CPAP [**Month/Day/Year **]. PFTs are reflective of
   restrictive physiology from obesity.  He is currently on ASV machine by
   home care but still not tolerating with persistent hypoxia.  Awaiting
   home care to titrate settings.   Setting adjusted with good effect
   - f/u with sleep fellow
   - Pt should lie with head elevation due large abdomen\
   - consider ambien to see if it will help him sleep and allow him to
   better titrate [**Last Name (LF) **], [**First Name3 (LF) 178**] discuss with sleep fellow first
   .
   # Hypoxia - Likely multifactorial including some pulmonary edema (as
   evidenced on CXR), pulmonary hypertension and cor pulmonale.  no e/o PE
   on CTA from admission.
   - BiPAP; will need O2 via NC when not on BiPAP, goal O2 88-92%
   - Diurese with oral lasix with goal of 500ml -1000 L daily and monitor
   lytes
   - touch base with sleep fellow re: home care to titrate BIPAP
   -discuss with sleep fellow if ok to use ambien
   .
   # Hypercarbia - With pH consistent with chronic process.  Maybe some
   component of slight acute worsening, but mostly chronic.  Likely [**2-8**]
   OSA, obesity; minimal evidence of COPD on PFTs.
   - BiPAP given with repeat ABG revealing minimal change in CO2
   - Follow MS [**First Name (Titles) **] [**Last Name (Titles) 8565**]
   -continue to titrate BIPAP
   .
   # Right heart failure - Secondary to cor pulmonae from COPD/OSA. No
   significant evidence of alcoholic cardiomyopathy. Echo showed normal
   EF, not major LV dysfunction and showed significant pHTN and TR. No
   improvement with nitric oxide, thus not starting sildenafil or CCB.
   Patient s/p right and left heart cath. No evidence of ASD. L heart cath
   negative for CAD.
   -continue po lasix for now, titrate to goal of [**Telephone/Fax (1) 1335**] l negative.
   >2000ml neg yesterday and putting out very well
   - [**Hospital1 **]  lytes
   - Daily weights & fluid restriction
   - Low salt diet once more alert and able to safely take PO
   - Cont BB
   - Cont lasix 120mg PO BID and down titrate prn at rehab
   .
   # Atrial Fibrillation: Currently not anticoagluated [**2-8**] massive GIB
   while on coumadin and Ciprofloxacin.  Rate controlled with metoprolol.
   No ASA due to h/o GIB.
   - NO plans for anticoagulation
   - BB at 25mg [**Hospital1 **] and stable
   .
   # Prurigo nodularis: appreciate Dermatology consult inpatient.
   - continue atarax QHS, clobetasol 0.05% ointment [**Hospital1 **], capsaicin cream
   TID x 4 weeks, d/c neosporin, mupirocin Cream 2% 1 Appl TP [**Hospital1 **] to open
   lesions / excoriations
   - f/u [**Hospital 8553**] clinic in 3 months
   .
   # Venous insuffiency/RLE Ulcer:  status post Apligraf placement on his
   right leg on [**1-14**]. Arterial flow studies, good flow until tibia.
   Chronic issue for patient
   - appreciate vascular reccs
   -right foot xray with no evidence of acute processes
   - Some wounds with exudate, will use Mupirocin per Dermatology
   .
   # Depression
 started on citalopram, tolerating well
   # Access: PIV -> will place PICC for antibiotics
   .
   # FEN: 1.5L fluid restriction /[**Hospital1 **] lytes while diuresing, low sodium
   cardiac diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2173-4-3**] 11:50 AM
   PICC Line - [**2173-4-7**] 06:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to MACU at [**Hospital **] rehab